US08217189B2
4,9-Dihydroxy-7-methyl-5H-furo[3,2-g]chromen-5-one (2.32 g, 10 mmol) was reacted with 1-bromo-3-(4-fluorophenyl)propane (1.0 eq) according to General Procedure A to give 9-(3-[4-fluorophenyl]propoxy)-4-hydroxy-5H-furo[3,2-g]chromen-5-one (2.4 g, 66%), that was further reacted according to General Procedure D (Step 1) to provide the corresponding triflate derivative in 80% (2.6 g) yield. The triflate (2.5 g, 5.0 mmol), ZnBr2.2H2O (3.92 g, 15.0 mmol), CuI (47.5 mg, 0.25 mmol), PdCl2(PPh3)2 (105 mg, 0.15 mmol) and MeLi (9.4 mL of 1.6 M in diethylether, 15.0 mmol) were reacted according to General Procedure D (Step 2) and the crude material was purified by silica-gel flash chromatography, eluting with dichloromethane to afford the title compound as a off-white solid (1.2 g, 65%). 1H NMR (300 MHz, CDCl3): δ 2.06-2.15 (m, 2H), 2.36 (s, 3H, Me), 2.89 (t, J=7.6 Hz, 2H, CH2), 2.96 (s, 3H), 4.37 (t, J=6.3 Hz, CH2), 6.05 (s, 1H), 6.92-6.99 (m, 3H), 7.15-7.20 (m, 2H), 7.64 (d, J=2.1 Hz, 1H).

reactant | 4,9-Dihydroxy-7-methyl-5H-furo[3,2-g]chromen-5-one | 10 mmol, 2.32 g | OC1=C2C(C=C(OC2=C(C2=C1C=CO2)O)C)=O | C12H8O5
reactant | 1-bromo-3-(4-fluorophenyl)propane | 1.0 eq | BrCCCC1=CC=C(C=C1)F | C9H10BrF
product | 9-(3-[4-fluorophenyl]propoxy)-4-hydroxy-5H-furo[3,2-g]chromen-5-one | 2.4 g, 66% | FC1=CC=C(C=C1)CCCOC=1C2=C(C(=C3C(C=COC13)=O)O)C=CO2 | C20H15FO5
